* Z:\mnt\spice-netlists\LTC4417_TA01A.asc
R1 N013 0 60.4K
R2 N012 N013 39.2K
R3 N001 N012 806K
R4 N018 0 68.1K
R5 N016 N018 31.6K
R6 N005 N016 1.05Meg
R7 N003 N014 1Meg
R8 N022 0 49.9K
R9 N021 N022 16.9K
R10 N009 N021 698K
C1 N003 N007 15n
R11 N007 N008 1.43K
D1 N008 N007 BAT54
R12 N003 N015 1Meg
R13 N003 N017 1Meg
M§Q1 N001 N004 N002 N002 FDS4685
C2 N003 0 100µ
I1 N003 0 2 load
V1 N005 0 PULSE(0 14.8 3 1m 1m 24 48)
V2 N009 0 PULSE(0 12 3 1m 1m 40 80)
M§Q2 N003 N004 N002 N002 FDS4685
M§Q3 N005 N007 N006 N006 FDS4685
M§Q4 N003 N007 N006 N006 FDS4685
M§Q5 N009 N011 N010 N010 FDS4685
M§Q6 N003 N011 N010 N010 FDS4685
V3 N001 0 PWL(0 0 15 18 24 7.2 24.1 -20 25 -20 25.1 20)
XU1 N019 N020 0 N012 N013 N016 N018 N021 N022 N014 N015 N017 0 N023 N003 N011 N010 N008 N006 N004 N002 N009 N005 N001 LTC4417
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 30
* LTC4417 - Prioritized PowerPath Controller\nPriority Switching from 12V Main to 14.8V Battery Backup Supply\nInput: 12V Wall, 14.8 Li-Ion, 12V SLA     Output: 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTC4417.sub
.backanno
.end
